US08314233B2
Methyl 3-(2,6-dimethylmorpholin-4-yl)acrylate (93.5%, 17.5 g, 82 mmol) and triethylamine (8.8 g, 87 mmol) were initially charged in toluene (150 ml) and cooled to −30° C. At this temperature, difluoroacetyl fluoride (10.0 g, 100 mmol) was introduced. The reaction mixture was stirred at −30° C. for 3 h and then, over a period of 1 hour, warmed to room temperature. The reaction mixture was washed with deionized water (100 ml). After separation of the phases, the aqueous phase was extracted once with toluene (100 ml). The toluene phases were combined and washed with an aqueous saturated NaCl solution (100 ml), and the solvent was then removed under reduced pressure. The residue obtained was 21.4 g of an orange solid which, according to GC analysis, consisted to 90.8% of methyl 4,4-difluoro-3-oxo-2-(2,6-dimethylmorpholin-4-ylmethylidene)butyrate (yield: 85.3%). 1H-NMR (CDCl3): δ=1.2 (s, 3H), 1.25 (s, 3H), 2.95 (m, 1H), 3.25 (m, 1H), 3.5 (m, 1H), 3.75 (m, 2H), 3.8 (s, 3H), 6.6 (t, 1H), 7.85 ppm (s, 1H).

reactant | Methyl 3-(2,6-dimethylmorpholin-4-yl)acrylate | 82 mmol, 17.5 g | CC1CN(CC(O1)C)C=CC(=O)OC | C10H17NO3
reactant | triethylamine | 87 mmol, 8.8 g | C(C)N(CC)CC | C6H15N
reactant | difluoroacetyl fluoride | 100 mmol, 10.0 g | FC(C(=O)F)F | C2HF3O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4,4-difluoro-3-oxo-2-(2,6-dimethylmorpholin-4-ylmethylidene)butyrate | yield: 85.3% | FC(C(C(C(=O)OC)=CN1CC(OC(C1)C)C)=O)F | C12H17F2NO4
